US09029536B2
C) 1-Ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine
NaH (60% in oil, 59 mg) was added portionwise at room temperature to a solution of 4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol (335 mg) in DMF (3.5 mL). After stirring for 30 min, 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (416 mg) was added, and the mixture was heated for 2 h at 150° C. under microwave irradiation. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/AcOEt) and crystallized from hexane/AcOEt to give the title compound (530 mg).

reactant | NaH | 59 mg | [H-].[Na+]
reactant | 4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol | 335 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)O | C14H13N3O
reactant | 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 416 mg | ClC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C13H19ClN2OSi
reactant | water | O | H2O
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine | 530 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C27H31N5O2Si
